US08614209B2
4,4-Difluoro-azepane hydrochloride
Acetyl chloride (3.9 mL) was added to methanol (90 mL) at 0° C. and stirred for 20 minutes before addition of 4,4-difluoro-azepane-1-carboxylic acid tert-butyl ester as a solution in methanol (10 mL). After 30 minutes, HCl in dioxane (4 N, 40 mL) was added cautiously and the mixture was stirred at room temperature for 3 hours. The solution was concentrated, triturated with ether, filtered and dried under vacuum overnight to afford the title compound as an off-white solid (2.1 g). 1H NMR (400 MHz, DMSO): δ 9.5 (s, 2H), 3.2-3.1 (m, 4H), 2.5-2.4 (m, 2H), 2.3-2.2 (m, 2H), 1.9-1.8 (m, 2H).

reactant | Acetyl chloride | 3.9 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4,4-difluoro-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)(F)F | C11H19F2NO2
reactant | HCl | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 4 N, 40 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 90 mL | CO | CH4O
product | 4,4-Difluoro-azepane hydrochloride | 2.1 g | Cl.FC1(CCNCCC1)F | InChI=1S/C6H11F2N.ClH/c7-6(8)2-1-4-9-5-3-6;/h9H,1-5H2;1H
